US06953806B2
In analogy to the method described in example 12.1, trans-N-[4-(4-bromo-(E)-but-2-enyloxymethyl)-cyclohexylmethyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide was reacted with 1-tert-butoxycarbonyl piperazine in N,N-dimethylacetamide at room temperature followed by treatment with trifluoroacetic acid at room temperature to yield trans-N-methyl-N-[4-(4-piperazin-1-yl-(E)-but-2-enyloxymethyl)-cyclohexylmethyl]-4-trifluoromethyl-benzenesulfonamide as light yellow solid, MS: 504 (MH+).

reactant | trans-N-[4-(4-bromo-(E)-but-2-enyloxymethyl)-cyclohexylmethyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | BrC/C=C/COC[C@@H]1CC[C@H](CC1)CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C20H27BrF3NO3S
reactant | 1-tert-butoxycarbonyl piperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | trans-N-methyl-N-[4-(4-piperazin-1-yl-(E)-but-2-enyloxymethyl)-cyclohexylmethyl]-4-trifluoromethyl-benzenesulfonamide | CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C[C@@H]1CC[C@H](CC1)COC\C=C\CN1CCNCC1 | C24H36F3N3O3S
